US05639789
(E)-3-Methoxycarbonyl-4-(3,4,5-trimethoxyphenyl) -3-butenoic acid methyl ester and benzaldehyde are treated in the same manner as in Example 1-(1) to give (E)-2-[(E) -benzylidene]-3-carboxy-4-(3,4,5-trimethoxyphenyl)-3-butenoic acid methyl ester.

reactant | (E)-3-Methoxycarbonyl-4-(3,4,5-trimethoxyphenyl) -3-butenoic acid methyl ester | COC(C/C(=C\C1=CC(=C(C(=C1)OC)OC)OC)/C(=O)OC)=O | C16H20O7
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (E)-2-[(E) -benzylidene]-3-carboxy-4-(3,4,5-trimethoxyphenyl)-3-butenoic acid methyl ester | COC(/C(/C(=C\C1=CC(=C(C(=C1)OC)OC)OC)/C(=O)O)=C/C1=CC=CC=C1)=O | C22H22O7
